US06310081B1
4-[4′-(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-biphenyl-4-yloxysulfonyl]-2-hydroxy-benzoic acid
The title compound was prepared from 4′-(2-benzyl-4,5-dimethyl-thiophen-3-yl)-biphenyl-4-ol and 4-chlorosulfonyl-2-hydroxy-benzoic acid, in substantially the same manner, as described in Example 1 step g, and was obtained as a white solid, mp 173-175° C.; MS m/e 570 (M−H)+;

reactant | 4′-(2-benzyl-4,5-dimethyl-thiophen-3-yl)-biphenyl-4-ol | C(C1=CC=CC=C1)C=1SC(=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O)C)C | C25H22OS
reactant | 4-chlorosulfonyl-2-hydroxy-benzoic acid | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
product | 4-[4′-(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-biphenyl-4-yloxysulfonyl]-2-hydroxy-benzoic acid | C(C1=CC=CC=C1)C=1SC(=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C)C | C32H26O6S2
